US06500212B1
To a solution of 106 g of diethanolamine in 700 mL of methanol was added a solution of 99 g of n-butylisocyanate in 40 mL of tetrahydrofuran over 1 hour, holding the temperature below 30° C. After the addition, the mixture was stirred for 1 hour and then the solvent was removed by vacuum distillation to give a white solid, N′-butyl-N,N-bis(2-hydroxyethyl)urea.

reactant | diethanolamine | 106 g | N(CCO)CCO | C4H11NO2
reactant | n-butylisocyanate | 99 g | C(CCC)N=C=O | C5H9NO
solvent | methanol | 700 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | N′-butyl-N,N-bis(2-hydroxyethyl)urea | C(CCC)NC(N(CCO)CCO)=O | C9H20N2O3
